US08975254B2
b) N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)ethyl)-5-(pyridin-3-yl)-1H-pyrazole-3-carboxamide
The title compound was prepared from 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (0.3 g, 0.773 mmol), 5-pyridin-3-yl-4H-pyrazole-3-carboxylic acid (0.161 g, 0.851 mmol), DIPEA (0.202 ml, 1.160 mmol), HOBt (0.157 g, 1.160 mmol) and EDCI (0.222 g, 1.160 mmol) using the method of Example 34(d) affording 0.06 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 3.70 (t, 2H), 4.39 (t, 2H), 7.01 (d, 1H), 7.79 (m, 2H), 7.88 (d, 1H).

reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 0.773 mmol, 0.3 g | NCCN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F | C12H10F2N4
reactant | 5-pyridin-3-yl-4H-pyrazole-3-carboxylic acid | 0.851 mmol, 0.161 g | N1=CC(=CC=C1)C=1CC(=NN1)C(=O)O | C9H7N3O2
reactant | DIPEA | 1.160 mmol, 0.202 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 1.160 mmol, 0.157 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.160 mmol, 0.222 g | CCN=C=NCCCN(C)C | C8H17N3
product | N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)ethyl)-5-(pyridin-3-yl)-1H-pyrazole-3-carboxamide | 0.06 g | C(#N)C1=C(C=C(C=C1F)C1=NN(C=C1)CCNC(=O)C1=NNC(=C1)C=1C=NC=CC1)F | C21H15F2N7O
